US07585886B2
In accordance with the method of “Journal of the American Chemical Society”, vol. 72, 1950, p. 1415, aniline was added to an itaconic acid aqueous solution and heated under reflux for 12Hours. After completion of the reaction, this was ice-cooled and mixed with 70 ml of 1 M hydrochloric acid, and the thus precipitated crystals were collected by filtration to obtain 5-oxo-1-phenylpyrrolidine-3-carboxylic acid. EP: 206.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
solvent | hydrochloric acid | 1 M, 70 ml | Cl | ClH
product | 5-oxo-1-phenylpyrrolidine-3-carboxylic acid | O=C1CC(CN1C1=CC=CC=C1)C(=O)O | C11H11NO3
